US04544670
The Preparation of 1-Cinnamoyl-3-Isobutylguanidine Hydrochloride
A mixture of 7.95 g of a 50% aqueous sodium hydroxide solution, isobutylguanidine sulfate (16.32 g), and 120 ml of tetrahydrofuran is stirred for 45 minutes. 12 g anhydrous sodium sulfate are added to the mixture and stirring continued 45 minutes. A solution of cinnamoyl chloride (8.28 g) in anhydrous tetrahydrofuran is slowly added dropwise to the reaction mixture and stirring continued for 48 hrs. The reaction mixture is filtered and concentrated in vacuo. The resultant yellow solid is partitioned between 150 ml of water and 125 ml of methylene chloride. The aqueous layer is extracted with methylene chloride and the combined organic extract dried, filtered, acidified with hydrochloric acid/methanol and concentrated in vacuo. The residue is twice recrystallized from hot acetonitrile/methanol to afford a white solid, M.P. 193°-194.5° C.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | isobutylguanidine sulfate | 16.32 g | S(=O)(=O)(O)O.C(C(C)C)NC(=N)N
reactant | sodium sulfate | 12 g | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | cinnamoyl chloride | 8.28 g | C(C=CC1=CC=CC=C1)(=O)Cl | C9H7ClO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
product | 1-Cinnamoyl-3-Isobutylguanidine Hydrochloride | Cl.C(C=CC1=CC=CC=C1)(=O)NC(=N)NCC(C)C | InChI=1S/C14H19N3O.ClH/c1-11(2)10-16-14(15)17-13(18)9-8-12-6-4-3-5-7-12;/h3-9,11H,10H2,1-2H3,(H3,15,16,17,18);1H
